US07691882B2
Tributyl-cyclobutoxymethyl-tin
To a mixture of sodium hydride (250 mg, 7.0 mmol, 66% in oil) and tetrahydrofuran (20 mL) were added cyclobutanol (0.55 mL, 7.0 mmol) and N,N-dimethylformamide (20 mL) at 0° C., and then the reaction mixture was stirred for 40 minutes at room temperature. The tributyl-iodomethyl-tin (2.0 g, 4.6 mmol) described in Manufacturing Example 197-2-2 was added dropwise to the reaction mixture at 0° C., and then the reaction mixture was stirred overnight at room temperature. Heptane and water were added to the reaction mixture, and the organic layer was separated. The organic layer was washed and saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=20:1) to obtain the title compound (1.6 g, 92%).

reactant | sodium hydride | 7.0 mmol, 250 mg | [H-].[Na+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | cyclobutanol | 7.0 mmol, 0.55 mL | C1(CCC1)O | C4H8O
reactant | tributyl-iodomethyl-tin | 4.6 mmol, 2.0 g | C(CCC)[Sn](CI)(CCCC)CCCC
solvent | water | O | H2O
solvent | Heptane | CCCCCCC | C7H16
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Tributyl-cyclobutoxymethyl-tin | 1.6 g, 92% | C(CCC)[Sn](COC1CCC1)(CCCC)CCCC | InChI=1S/C5H9O.3C4H9.Sn/c1-6-5-3-2-4-5;3*1-3-4-2;/h5H,1-4H2;3*1,3-4H2,2H3;
